US07388020B2
iii) N-[2-({(2S)-3-[4-(5-Fluoro-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinyl]-2-hydroxypropyl}oxy)-4-methoxyphenyl]acetamide
The title compound was prepared according to the procedure described in Example 30 above from 5-fluoro-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one and N-{4-methoxy-2-[(2S)oxiranylmethoxy]phenyl}acetamide. The product was purified by preparative HPLC (Kromasil column; eluent: acetonitrile/water) to afford a colourless solid (84%).

reactant | 5-fluoro-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one | FC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14FN3O
reactant | N-{4-methoxy-2-[(2S)oxiranylmethoxy]phenyl}acetamide | COC1=CC(=C(C=C1)NC(C)=O)OC[C@H]1OC1 | C12H15NO4
product | N-[2-({(2S)-3-[4-(5-Fluoro-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinyl]-2-hydroxypropyl}oxy)-4-methoxyphenyl]acetamide | FC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C[C@@H](COC2=C(C=CC(=C2)OC)NC(C)=O)O)C=C1 | C24H29FN4O5
